US06562978B1
4-[(1-Acetyl-4-piperidinyl)methyl]benzenesulfonamide
To chlorosulfonic acid (3.1 mL) was added dropwise a solution of 1-acetyl-4-benzylpiperidine (2.0 g) in chloroform (5 mL) under ice cooling, and the mixture was stirred at, the same temperature for 1 hour and at room temperature for 30 minutes. The reaction mixture was poured into ice-water, and the mixture was extracted with chloroform. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give chlorosulfone derivatives (1.87 g). A solution of the above chlorosulfone derivatives (1.04 g), 10% ammonia water (12 mL) and triethylamine (0.92 mL) in THF (20 mL) was heated for 1.5 hour under ref lux. The organic solvent was distilled off, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated under reduced pressure. The concentrate was subjected to silica gel column chromatography (ethyl acetate/methanol=8/1), and the desired fraction was concentrated under reduced pressure to give the titled compound (0.755 g, 2.55 mmol, Yield 78%) as a colorless oily substance.

reactant | chlorosulfone | ClS(=O)(=O)Cl | Cl2O2S
reactant | ammonia water | 12 mL | O.N
reactant | triethylamine | 0.92 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[(1-Acetyl-4-piperidinyl)methyl]benzenesulfonamide | 2.55 mmol, 0.755 g, Yield 78% | C(C)(=O)N1CCC(CC1)CC1=CC=C(C=C1)S(=O)(=O)N | C14H20N2O3S
